US07834009B2
c) N-{3-[6-(4-Fluoro-benzyl)-9-hydroxy-7-oxo-6-aza-spiro[4.5]dec-8-en-8-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide
A solution of [1-(4-fluoro-benzylamino)-cyclopentyl]-acetic acid methyl ester (109 mg, 0.41 mmol) and (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid (150 mg, 0.45 mmol) in anhydrous N,N-dimethylformamide (4 mL) was treated sequentially with N-methylmorpholine (100 μL, 0.91 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (86 mg, 0.45 mmol). The reaction mixture was stirred at 25° C. for 1 h, diluted with a 1.0 M aqueous hydrochloric acid solution (20 mL), and extracted with ethyl acetate (3×40 mL). The combined organic layers were washed with brine (20 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was dissolved in ethanol (5 mL), treated with a 21 wt % solution of sodium ethoxide in ethanol (1.0 mL, 2.73 mmol). The reaction was stirred and heated at 60° C. for 1.5 h, allowed to cool to 25° C., and quenched with a 0.5 M aqueous hydrochloric acid solution (10 mL). The resulting mixture was extracted with ethyl acetate (3×40 mL) and the combined organic layers were washed with brine (20 mL), dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude residue was purified by prep-HPLC [Column Luna 5μ C18(2) 100 Å AXIA 150×21.2 mm, 5 micron, 30-100% in7 min @ 30 mL/min flow rate, 0.05% trifluoroacetic acid in acetonitrile/0.05% trifluoroacetic acid in water] to afford the desired product, N-{3-[6-(4-fluoro-benzyl)-9-hydroxy-7-oxo-6-aza-spiro[4.5]dec-8-en-8-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide (50 mg, 22%), as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ: 1.55-1.73 (m, 6H), 1.75-1.87 (m, 2H), 2.93 (s, 2H), 3.05 (s, 3H), 4.66 (s, 2H), 7.12 (t, J=8.8 Hz, 2H), 7.34 (dd, J1=8.8 Hz, J2=5.2 Hz, 2H), 7.48 (dd, J1=8.4 Hz, J2=2.4 Hz, 1H), 7.52-7.58 (m, 2H), 10.16 (s, 1H), 13.68 (s, br, 1H). LC-MS (ESI) calculated for C24H25FN4O6S2: 548.6, found 549.3 [M+H+].

reactant | [1-(4-fluoro-benzylamino)-cyclopentyl]-acetic acid methyl ester | 0.41 mmol, 109 mg | COC(CC1(CCCC1)NCC1=CC=C(C=C1)F)=O | C15H20FNO2
reactant | (7-methanesulfonylamino-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-3-yl)-acetic acid | 0.45 mmol, 150 mg | CS(=O)(=O)NC1=CC2=C(NC(=NS2(=O)=O)CC(=O)O)C=C1 | C10H11N3O6S2
reactant | N-methylmorpholine | 0.91 mmol, 100 μL | CN1CCOCC1 | C5H11NO
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 0.45 mmol, 86 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 2.73 mmol, 1.0 mL | C(C)O | C2H6O
solvent | N,N-dimethylformamide | 4 mL | CN(C=O)C | C3H7NO
solvent | hydrochloric acid | 1.0 M, 20 mL | Cl | ClH
product | N-{3-[6-(4-fluoro-benzyl)-9-hydroxy-7-oxo-6-aza-spiro[4.5]dec-8-en-8-yl]-1,1-dioxo-1,4-dihydro-1λ6-benzo[1,2,4]thiadiazin-7-yl}-methanesulfonamide | 50 mg, 22% | FC1=CC=C(CN2C3(CCCC3)CC(=C(C2=O)C2=NS(C3=C(N2)C=CC(=C3)NS(=O)(=O)C)(=O)=O)O)C=C1 | C24H25FN4O6S2
